US07541341B2
Sodium methoxide (28% methanol solution; 0.3 mL) was added to a solution of 5-acetoxymethyl-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (1.0 g) in methanol (12 mL), and the mixture was stirred at room temperature for 40 minutes. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=7/1) to give 2-(4-ethylbenzyl)-5-hydroxymethylphenyl β-D-glucopyranoside (0.68 g).

reactant | Sodium methoxide | 0.3 mL | C[O-].[Na+]
reactant | 5-acetoxymethyl-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 1.0 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)COC(C)=O)CC2=CC=C(C=C2)CC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H38O12
solvent | methanol | 12 mL | CO | CH4O
product | 2-(4-ethylbenzyl)-5-hydroxymethylphenyl β-D-glucopyranoside | 0.68 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)CO)CC1=CC=C(C=C1)CC | C22H28O7
